US04366166
20.1 g of 1-(1,2-dibromoethyl)-2-nitroimidazole were heated under reflux for 1 hour in 132 ml of a 0.51 N solution of sodium ethylate in methanol. The mixture was evaporated and the residue was taken up with 250 ml of ethyl acetate and 100 ml of water. The organic phase was washed with 100 ml of 10% sodium chloride solution and evaporated, and the residue was chromatographed on 300 g of silica gel using ethyl acetate/cyclohexane (4:1, v/v). After a forerun of 420 ml, there were isolated from 270 ml of further eluate 8.2 g of 1-(1-bromovinyl)-2-nitroimidazole; yield 4.6 g; m.p. 80°-82° C. (from isopropanol).

reactant | 1-(1,2-dibromoethyl)-2-nitroimidazole | 20.1 g | BrC(CBr)N1C(=NC=C1)[N+](=O)[O-] | C5H5Br2N3O2
reactant | sodium ethylate | CC[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(1-bromovinyl)-2-nitroimidazole | 8.2 g | BrC(=C)N1C(=NC=C1)[N+](=O)[O-] | C5H4BrN3O2
